US04101661
(a) 6-[4-[Bis(2-hydroxyethyl)aminosulfonyl]phenyl]-1,2-dihydro-2-oxonicotinic Acid, 2,5-Dioxo-1-pyrrolidinyl Ester
A solution of 45 g. of 6-[4-[bis(2-hydroxyethyl)aminosulfonyl]phenyl]-1,2-dihydro-2-oxonicotinic acid and 14.0 g. of N-hydroxysuccinimide in 450 ml. of dimethylformamide is cooled to 0°-5° C. and treated dropwise, with stirring, with a solution of 26.8 g. of N,N'-dicyclohexylcarbodiimide in 30 ml. of dimethylformamide. The mixture is stirred for 16 hours at room temperature, then cooled and filtered to remove by-product N,N'-dicyclohexylurea. The filtrate is diluted with 1.5 l. of 2-propanol and the resulting precipitate of 6-[4-[bis(2-hydroxyethyl)aminosulfonyl]phenyl]-1,2-dihydro-2-oxonicotinic acid, 2,5-dioxo-1-pyrrolidinyl ester is collected by filtration, washed with cold 2-propanol and dried; m.p. 213°-215.5° C.

reactant | 6-[4-[bis(2-hydroxyethyl)aminosulfonyl]phenyl]-1,2-dihydro-2-oxonicotinic acid | OCCN(S(=O)(=O)C1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O)CCO | C16H18N2O7S
reactant | N-hydroxysuccinimide | ON1C(CCC1=O)=O | C4H5NO3
reactant | N,N'-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 6-[4-[Bis(2-hydroxyethyl)aminosulfonyl]phenyl]-1,2-dihydro-2-oxonicotinic Acid, 2,5-Dioxo-1-pyrrolidinyl Ester | OCCN(S(=O)(=O)C1=CC=C(C=C1)C=1NC(C(C(=O)ON2C(CCC2=O)=O)=CC1)=O)CCO | C20H21N3O9S
